US04103009
2,4-diamino-6-(3-methylsulfonylphenyl)-s-triazine
5.0 g of m-methylsulfonylbenzonitrile (101°-103° C.), 2.8 g of dicyanodiamide and 2.0 g of caustic potash are refluxed in 20 ml of methyl cellosolve for 3 hours. After cooling, the mixture is diluted with water, and the separated crystals are recrystallized from ethanol. Melting point: 228°-289° C.; yield: 4.8 g.

reactant | m-methylsulfonylbenzonitrile | 5.0 g | CS(=O)(=O)C=1C=C(C#N)C=CC1 | C8H7NO2S
reactant | dicyanodiamide | 2.8 g | C(#N)N=C(N)N | C2H4N4
reactant | caustic potash | 2.0 g | [OH-].[K+]
solvent | methyl cellosolve | 20 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 2,4-diamino-6-(3-methylsulfonylphenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1)S(=O)(=O)C | C10H11N5O2S
